US07799933B2
{4-[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid methyl ester (121.00 mg, 0.23 mmol) was dissolved in methanol/tetrahydrofuran 1:1 (1.40 mL) and treated at room temperature with a 1N solution of LiOH in water (0.70 mL, 0.70 mmol). The mixture was stirred at room temperature for 4 hours, then the organic solvents were evaporated and the residual aqueous phase acidified with HCl 1N (0.70 mL). The precipitated solid was filtered washing with ether, then purified by flash chromatography (dichloromethane/methanol gradient) to yield {4-[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid as an off-white solid, 69.00 mg (59%), MS (ISP): m/e=513.5 (M−H).

reactant | {4-[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid methyl ester | 0.23 mmol, 121.00 mg | COC(CC1=CC=C(C=C1)C(NC1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O)=O | C26H25ClN2O6S
reactant | LiOH | [Li+].[OH-]
reactant | water | 0.70 mmol, 0.70 mL | O | H2O
solvent | methanol tetrahydrofuran | 1.40 mL | CO.O1CCCC1
product | {4-[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylcarbamoyl]-phenyl}-acetic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCCC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)CC(=O)O)OC | C25H23ClN2O6S
